US04140789
22.5 g of 2-allyloxy-6-nitro-benzonitrile are introduced into a solution of 26.8 g of m-chloroperbenzoic acid (85% strength) in 1 liter of chloroform and the mixture is warmed to 50° in the course of 3 hours. The reaction mixture is kept at this temperature for 24 hours and then cooled and the solution is washed with 100 ml of 1 M sodium sulphite solution, then with 100 ml of 2 N sodium hydroxide solution and finally with 100 ml of water. After drying over magnesium sulphate and evaporating the solution, a colourless crystalline residue is obtained and this is ground with 20 ml of isopropanol, the mixture is filtered and the material on the filter is dried in vacuo, after which crude 2-(2,3-epoxypropoxy)-6-nitro-benzonitrile with a melting point of 131°-135° is obtained and this is used further in the form of the crude product.

reactant | 2-allyloxy-6-nitro-benzonitrile | 22.5 g | C(C=C)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C10H8N2O3
reactant | m-chloroperbenzoic acid | 26.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 1 liter | C(Cl)(Cl)Cl | CHCl3
product | 2-(2,3-epoxypropoxy)-6-nitro-benzonitrile | O1C(COC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C1 | C10H8N2O4
